US09034866B2
Synthesis of 9-(3,4-Dihydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide
To a solution of compound 9-[4-(tert-Butyl-dimethyl-silanyloxy)-3-hydroxy-3-methyl-but-1-ynyl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide (300 mg, 0.66 mmol) in THF (20 mL) was added TBAF (340 mg, 1.3 mmol) at 0° C. for about 1 h. After washed with water and extracted with EtOAc, the crude product was purified by Pre-HPLC to get the titled compound (100.0 mg, yield 46.5%). LCMS=328.1 [M+H]+; 1H NMR (DMSO-d6, 400 MHz) δ 8.50 (d, J=2.0 Hz, 1H), 7.84 (s, 1H), 7.64 (s, 1H), 7.34 (d, J=8.4 Hz, 1H), 7.26 (s, 1H), 7.04 (d, J=8.4 Hz, 1H), 4.50 (s, 4H), 3.45-3.37 (q, J=10.4 Hz, 2H), 1.39 (s, 3H).

reactant | 9-[4-(tert-Butyl-dimethyl-silanyloxy)-3-hydroxy-3-methyl-but-1-ynyl]-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 0.66 mmol, 300 mg | C(C)(C)(C)[Si](OCC(C#CC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)(C)O)(C)C | C23H31N3O4Si
reactant | TBAF | 1.3 mmol, 340 mg | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 9-(3,4-Dihydroxy-3-methyl-but-1-ynyl)-4,5-dihydro-6-oxa-1,3a-diaza-benzo[e]azulene-2-carboxylic acid amide | 100.0 mg, yield 46.5% | OC(C#CC=1C=CC2=C(C3=NC(=CN3CCO2)C(=O)N)C1)(CO)C | C17H17N3O4
